### PR TITLE
Add optional lookup + theories

### PR DESCRIPTION
**Pull request by KimayaBedarkar**
##### Motivation for this change
Currently, mathcomp only has total lookup on lists that requires a default value to be given. I think it is useful to also have optional lookup on lists. I defined and used optional lookup extensively in my work and would like to upstream it to mathcomp.

(I had previously asked about optional lookup here: https://coq.zulipchat.com/#narrow/channel/237664-math-comp-users/topic/List.20utility.20functions/near/432448842)

This PR adds the definition and some theory for optional lookup. This MR does not yet have optimum proofs for all newly added lemmas. Additonally, I also have some more complex lemmas concerning bigops etc. that I have not yet added. I wanted to check if there is interest in merging this first.

##### Minimal TODO list

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by hivert** [comment]
In MathComp, option dealing is usually named by prepending a "o" like `oapp`, `ocancel`. There is even an `ohead` in `seq.v`. For consistency, I suggest `onth` instead of `nth_error`.

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -461,6 +461,51 @@ apply: eq_from_nth => [|i _]; first by rewrite !size_set_nth maxnCA.
...
+Proof. by revert n; induction s as [|???]; intro n; destruct n; simpl; done. Qed.
+
+Lemma nth_error_cat (s1 s2 : list T) n :
+  nth_error (s1 ++ s2) n = (if n < size s1 then nth_error s1 n else nth_error s2 (n - size s1)).
+Proof. by elim: s1 n => [|x s1 IHs] []. Qed.
+
+Lemma nth_error_nseq x n m :
+  nth_error (nseq n x) m = if (m < n) then Some x else None.
+Proof.  by elim: n m => [|??] []. Qed.
+
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:508]: @KimayaBedarkar thank you for your contribution.
I support @hivert remark.

Additionally, I would start with proving the lemma `onth s n = nth None (map Some s) n`, in order to give a way for user to piggyback on `nth` theory and also deduce some theorems from it. e.g.

```suggestion
(* Sequence indexing with error. *)

Fixpoint onth s n : option T :=
  if s isn't x :: s then None else
  if n isn't n.+1 then Some x else onth s n.

Lemma onthE s : onth s =1 nth None (map Some s).
Proof. by move=> n; elim: n s => [|? ?] []. Qed.

Lemma onth0 n : onth [::] n = None. Proof. by case: n. Qed.

Lemma onth1P x y n : onth [:: x] n = Some y -> n = 0 /\ x = y.
Proof. by case: n => [[->]|]. Qed.

Lemma onthT s n : onth s n = (n < size s) :> bool.
Proof. by elim: n s => [|? ?] []. Qed.

Lemma onthN s n: ~~ onth s n = (size s <= n).
Proof. by rewrite onthT -leqNgt. Qed.

Lemma onth_cat s1 s2 n :
  onth (s1 ++ s2) n = if n < size s1 then onth s1 n else onth s2 (n - size s1).
Proof. by elim: n s1 => [|n IHn] []. Qed.

Lemma onth_nseq x n m : onth (nseq n x) m = if m < n then Some x else None.
Proof. by rewrite onthE/= -nth_nseq map_nseq. Qed.
```

Comment (KimayaBedarkar) [reply mathcomp/ssreflect/seq.v:508]: Thanks for the suggestions. Clearly I need to optimize my proofs more 😀 .

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -461,6 +461,32 @@ apply: eq_from_nth => [|i _]; first by rewrite !size_set_nth maxnCA.
...
+  if s isn't x :: s then None else
+  if n isn't n.+1 then Some x else onth s n.
+
+Lemma onthE s : onth s =1 nth None (map Some s).
+Proof. by move=> n; elim: n s => [|? ?] []. Qed.
+
+Lemma onth0n n : onth [::] n = None. Proof. by case: n. Qed.
+
+Lemma onth1P x y n : onth [:: x] n = Some y -> n = 0 /\ x = y.
+Proof. by case: n => [[->]|]. Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:476]:
```suggestion
Proof. by case: n => -[]. Qed.
```
for some reason github did not let me edit this proof correctly, this should be fixed now

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -462,50 +462,31 @@ by do 2!rewrite !nth_set_nth /=; case: eqP => // ->; case: eqVneq ne_n12.
...
-               | n'.+1 => nth_error s' n'
-               end
-  end.
 
-Lemma nth_error_cons x s n :
-       nth_error (x :: s) n = match n with
-                                    | 0 => Some x
-                                    | S n' => nth_error s n'
-                                    end.
-Proof. by elim: n. Qed.
```
Comment (KimayaBedarkar) [inline mathcomp/ssreflect/seq.v]: Was this accidentally needed or is it an unnecessary lemma?

**Comment by KimayaBedarkar** [comment]
I added some more theories. Probably the proofs can be simplified by using the equivalence between `nth` and `onth`. I will optimise proofs later.

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -2546,6 +2544,125 @@ Proof. by rewrite onthE/= -nth_nseq map_nseq. Qed.
...
+  apply /negP => /eqP SOME.
+  apply onth_in in SOME.
+  by rewrite SOME in NOTIN.
+Qed.
+
+Lemma mem_implies_exists_onth s x :
+    x \in s ->
+      exists n,
+        onth s n = Some x.
+Proof.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2583]: I would replace the first and last with: `onthP : reflect (exists n, onth s n = Some x) (x \in s)` and the middle one is a  use of `contraNneq`

File: mathcomp/ssreflect/seq.v [hunk 5]
```diff
@@ -2546,6 +2544,125 @@ Proof. by rewrite onthE/= -nth_nseq map_nseq. Qed.
...
+  - move => MEM.
+    rewrite in_cons ELEM //= in MEM.
+    specialize (IH MEM).
+    move : IH => [n IH].
+    by exists n.+1.
+Qed.
+
+Lemma onth_map {A : eqType} {B : eqType} n (s :seq A) (f : A -> B)  a :
+  onth s n = Some a ->
+  onth (map f s) n = Some (f a).
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/seq.v:2598]: It also should not need `eqType`s.

File: mathcomp/ssreflect/seq.v [hunk 6]
```diff
@@ -2509,6 +2508,161 @@ Qed.
...
+    - by rewrite onth0n //=.
+    - by move => ?; by rewrite onth0n //=.
+    - by move => EQ; inversion EQ; subst.
+    - move => n.
+      simpl.
+      move => ?.
+      by apply: IHs.
+Qed.
+
+Lemma nth_error_map_eq {A : eqType} {B : eqType} n (s :seq A) (f : A -> B)  a :
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:2610]: This should be subsumed by the more general `onth_map` and `inj_omap`.

File: mathcomp/ssreflect/seq.v [hunk 7]
```diff
@@ -2509,6 +2508,161 @@ Qed.
...
+    - move => ?. by rewrite onth0n //=.
+    - rewrite /onth //=.
+      move => EQ; injection EQ => FEQ.
+      have -> : x = a; last done.
+      by apply: INJ.
+    - move => n.
+      by simpl => ?; apply: IHs. }
+Qed.
+
+Lemma nth_error_uniq s n m :
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:2635]:
```suggestion
Lemma onth_uniq s n m :
```

**Comment by CohenCyril** [comment]
Dear @KimayaBedarkar thanks for these addition. I think having onth is necessary and I would like to merge this asap. That's also why I took the liberty to refactor your contribution to meet library standards. If you are fine with it we should merge this after a light review and since I assume you may have more results to contribute I invited you to open a new PR after this one is merged. Would that be ok?

**Comment by CohenCyril** [comment]
Dear @KimayaBedarkar thanks for these addition. I think having onth is necessary and I would like to merge this asap. That's also why I took the liberty to refactor your contribution to meet library standards. If you are fine with it we should merge this after a light review and since I assume you may have more results to contribute I invited you to open a new PR after this one is merged. Would that be ok?

**Comment by KimayaBedarkar** [comment]
> Dear @KimayaBedarkar thanks for these additions. I think having onth is necessary and I would like to merge this asap. That's also why I took the liberty to refactor your contribution to meet library standards. If you are fine with it we should merge this after a light review and since I assume you may have more results to contribute I invited you to open a new PR after this one is merged. Would that be ok?

Hi!
Yes, sounds good!
Thanks for all the refactoring you did!

File: mathcomp/ssreflect/seq.v [hunk 8]
```diff
@@ -460,7 +460,6 @@ have [-> | ne_n12] := eqVneq.
 apply: eq_from_nth => [|i _]; first by rewrite !size_set_nth maxnCA.
 by do 2!rewrite !nth_set_nth /=; case: eqP => // ->; case: eqVneq ne_n12.
 Qed.
-
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:463]: Why was this line removed?

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:463]: Some bad edit of mine?

File: mathcomp/ssreflect/seq.v [hunk 9]
```diff
@@ -460,7 +460,6 @@ have [-> | ne_n12] := eqVneq.
...
 (* find, count, has, all. *)
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:463]:
```suggestion

(* find, count, has, all. *)
```

File: mathcomp/ssreflect/seq.v [hunk 10]
```diff
@@ -983,6 +982,50 @@ Proof.
 by move=> Pnil Pcons; elim=> [|x s IHs] [|y t] //= [eq_sz]; apply/Pcons/IHs.
 Qed.
 
+
+Section AllIff.
+(* The Following Are Equivalent *)
+
+(* We introduce a specific conjunction, used to chain the consecutive *)
+(* items in a circular list of implications *)
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:990]:
```suggestion
(* We introduce a specific conjunction, used to chain the consecutive items in*)
(* a circular list of implications. This restricts tfae's work to the         *)
(* conjuctions from the all_iff, excluding those that appear inside an item.  *)
```

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:990]: > This restricts tfae's work to the conjuctions from the all_iff, excluding those that appear inside an item. 

I don't get this :arrow_up: what are "the conjuctions from the all_iff" and "those that appear inside an item"?
I believe this is orthogonal to this PR anyway, which merly moves this piece of code from above, in order to take advantage of it.

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:990]: moreover the proper [doc of tfae is here](https://github.com/math-comp/math-comp/blob/fdea13044905aeeb755a6a9363b55825b6ef0f79/mathcomp/ssreflect/seq.v#L191-L198) anyway

Comment (Tragicus) [reply mathcomp/ssreflect/seq.v:990]: Ah, I thought this was an addition, please ignore me.

File: mathcomp/ssreflect/seq.v [hunk 11]
```diff
@@ -2509,6 +2552,113 @@ Qed.
...
+  [<-> s1 = s2;
+   forall i : nat, i < maxn (size s1) (size s2) -> onth s1 i = onth s2 i;
+   forall i : nat, onth s1 i = onth s2 i].
+Proof.
+tfae=> [->//|eqs12 i|eqs12].
+  have := eqs12 i; case: ltnP => [_ ->//|].
+  by rewrite geq_max=> /andP[is1 is2] _; rewrite !onth_default.
+have /eqP eq_size_12 : size s1 == size s2.
+  by rewrite eqn_leq -!onthNE eqs12 onthNE -eqs12 onthNE !leqnn.
+apply/(inj_map Some_inj)/(@eq_from_nth _ None); rewrite ?size_map//.
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:2602]:
```suggestion
  by rewrite geq_max => /andP[is1 is2] _; rewrite !onth_default.
have /eqP eq_size_12 : size s1 == size s2.
  by rewrite eqn_leq -!onthNE eqs12 onthNE -eqs12 onthNE !leqnn.
apply/(inj_map Some_inj)/(@eq_from_nth _ None); rewrite !size_map//.
```

File: mathcomp/ssreflect/seq.v [hunk 12]
```diff
@@ -2509,6 +2552,113 @@ Qed.
...
+by move=> i _; rewrite -!onthE eqs12.
+Qed.
+
+Lemma eq_from_onth [s1 s2 : seq T] :
+  (forall i : nat, onth s1 i = onth s2 i) -> s1 = s2.
+Proof. by move/(eq_onthP 0 2). Qed.
+
+Lemma eq_from_onth_le [s1 s2 : seq T] :
+  (forall i : nat, i < maxn (size s1) (size s2) -> onth s1 i = onth s2 i) -> s1 = s2.
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:2611]: This line is too long.

File: mathcomp/ssreflect/seq.v [hunk 13]
```diff
@@ -2509,6 +2552,113 @@ Qed.
...
+Lemma onthPn s x : reflect (forall i, onth s i != Some x) (x \notin s).
+Proof.
+apply: (iffP idP); first by move=> /onthP + i; apply: contra_not_neq; exists i.
+by move=> nsix; apply/onthP => -[n /eqP/negPn]; rewrite nsix.
+Qed.
+
+Lemma uniq_onth s n m : uniq s -> minn m n < size s ->
+  onth s n = onth s m -> n = m.
+Proof.
+elim: s m n => [|x s IHs]//= [|m] [|n]//=; rewrite ?(minnSS, ltnS).
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:2650]:
```suggestion
elim: s m n => [|x s IHs]//= [|m] [|n]//=; rewrite ?minnSS !ltnS.
```
For two characters less and a few less failing rewrites.

File: mathcomp/ssreflect/seq.v (hunk 10 above)
Comment (Tragicus) [reply mathcomp/ssreflect/seq.v:990]: For completion, I was confused why `all_iff_and` was needed. I tried to replace it by `and` and `tfae` by `do ! split` and figured that if one of the items of the `all_iff` had a conjuction, `tfae` would split it.

File: mathcomp/ssreflect/seq.v (hunk 12 above)
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2611]:
```suggestion
Lemma eq_from_onth_le [s1 s2 : seq T] :
    (forall i : nat, i < maxn (size s1) (size s2) -> onth s1 i = onth s2 i) ->
  s1 = s2.
```

File: mathcomp/ssreflect/seq.v (hunk 10 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:991]: Ah ok, this should be documented indeed but stated as you latter comment, not the former :)

File: mathcomp/ssreflect/seq.v [hunk 14]
```diff
@@ -2509,6 +2553,114 @@ Qed.
...
+Qed.
+
+Lemma onthPn s x : reflect (forall i, onth s i != Some x) (x \notin s).
+Proof.
+apply: (iffP idP); first by move=> /onthP + i; apply: contra_not_neq; exists i.
+by move=> nsix; apply/onthP => -[n /eqP/negPn]; rewrite nsix.
+Qed.
+
+Lemma uniq_onth s n m : uniq s -> minn m n < size s ->
+  onth s n = onth s m -> n = m.
```
Comment (Tragicus) [inline mathcomp/ssreflect/seq.v:2650]: The head symbol is more `onth` than `uniq`, so it should be `onth_uniq`, should it not?

File: mathcomp/ssreflect/seq.v [hunk 15]
```diff
@@ -2509,6 +2553,114 @@ Qed.
...
+Fixpoint onth s n {struct n} : option T :=
+  if s isn't x :: s then None else
+  if n isn't n.+1 then Some x else onth s n.
+
+Lemma onthE s : onth s =1 nth None (map Some s).
+Proof. by move=> n; elim: n s => [|? ?] []. Qed.
+
+Lemma onth0n n : onth [::] n = None. Proof. by case: n. Qed.
+
+Lemma onth1P x y n : onth [:: x] n = Some y -> n = 0 /\ x = y.
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:2574]: Why not
```suggestion
Lemma onth1P x y n : onth [:: x] n = Some y <-> n = 0 /\ x = y.
```

File: mathcomp/ssreflect/seq.v [hunk 16]
```diff
@@ -2509,6 +2553,114 @@ Qed.
...
+Proof. by case: n => -[]. Qed.
+
+Lemma onth_default n s : size s <= n -> onth s n = None.
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:2577]: The name `default` had a clear meaning for `nth_default` but is less clear here. Not sure what would be the best name though?

File: mathcomp/ssreflect/seq.v [hunk 17]
```diff
@@ -2509,6 +2553,114 @@ Qed.
...
+
+Lemma onthTE s n : onth s n = (n < size s) :> bool.
+Proof. by elim: n s => [|? ?] []. Qed.
+
+Lemma onthNE s n: ~~ onth s n = (size s <= n).
+Proof. by rewrite onthTE -leqNgt. Qed.
+
+Lemma onth_cat s1 s2 n :
+  onth (s1 ++ s2) n = if n < size s1 then onth s1 n else onth s2 (n - size s1).
+Proof. by elim: n s1 => [|? ?] []. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:2588]: Maybe this can be proved with `nthE`, avoiding the inductive proof?

File: mathcomp/ssreflect/seq.v [hunk 18]
```diff
@@ -2509,6 +2553,114 @@ Qed.
...
+
+Lemma onth_nseq x n m : onth (nseq n x) m = if m < n then Some x else None.
+Proof. by rewrite onthE/= -nth_nseq map_nseq. Qed.
+
+Lemma eq_onthP {s1 s2} :
+  [<-> s1 = s2;
+   forall i : nat, i < maxn (size s1) (size s2) -> onth s1 i = onth s2 i;
+   forall i : nat, onth s1 i = onth s2 i].
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:2596]: How convenient is that to use? Usually, lemmas `somethingP` are used with view `/somethingP` to switch from one side of an equivalence to the other. Here, how do I switch to the second or third equaivalent statement?

Edit: ok, I see below. That's clever but seems overengineered here. Two lemmas `onthP` and `onthP_nat` or something like that would probably do the job just as well (and we wouldn't need the redundant implications below).

File: mathcomp/ssreflect/seq.v [hunk 19]
```diff
@@ -2509,6 +2553,114 @@ Qed.
...
+Lemma eq_from_onth_le [s1 s2 : seq T] :
+    (forall i : nat, i < maxn (size s1) (size s2) -> onth s1 i = onth s2 i) ->
+  s1 = s2.
+Proof. by move/(eq_onthP 0 1). Qed.
+
+End onth.
+
+Lemma onth_map {T S} n (s : seq T) (f : T -> S) :
+  onth (map f s) n = omap f (onth s n).
+Proof. by elim: s n => [|x s IHs] []. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:2620]: This could probably be proved using `onthE`, avoinding the induction proof.

**Review by proux01 — COMMENTED** [review]
A few nitpicking

File: mathcomp/ssreflect/seq.v (hunk 18 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2596]: That's by far the most concise way to get the three proofs without losing anything (and this is the mathematical practice when dealing with multiple equivalences where the clever steps can be done once and for all) + I have future plans for TFAE which imply using it as a view like `/somethingP` without having to pick which one you want.

File: mathcomp/ssreflect/seq.v (hunk 19 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2620]: I did try, but elimination is shorter by far.

File: mathcomp/ssreflect/seq.v (hunk 16 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2577]: I think keeping the name we use for `nth` is a good way to remember it.

File: mathcomp/ssreflect/seq.v (hunk 18 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2596]: (Note that tfae was not created for this, it is already useful in other parts of the library and I merely moved it from below in the file to use it here)

File: mathcomp/ssreflect/seq.v (hunk 14 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2650]: Well I'd say the head symbol (of the conclusion) is a `eq`, but at the same time it's a kind of injectivity lemma (slightly generalized outside the actual domain of `onth` though)  so maybe it should be called `onth_inj`

**Comment by KimayaBedarkar** [comment]
@CohenCyril can I do something to push this MR further?

**Comment by CohenCyril** [comment]
> @CohenCyril can I do something to push this MR further?

Pinging me is good enough. I integrated most comments. I will leave the `[<-> ...]` because it's a good test bench and makes for shorter proofs.

If the CI agree and noone argues by tomorrow evening Paris time, I will merge.

**Comment by proux01** [comment]
This still requires an entry in the changelog and a line of documentation for the new `onth` definition in the header comment of ssreflect/seq.v. Otherwise LGTM

File: mathcomp/ssreflect/seq.v (hunk 6 above)
Comment (Tragicus) [reply mathcomp/ssreflect/seq.v]: I still think this (which now called `inj_onth_map`) is a property of `omap` and not of `onth`.

File: mathcomp/ssreflect/seq.v (hunk 14 above)
Comment (Tragicus) [reply mathcomp/ssreflect/seq.v]: In that case it should be `inj_onth`, as in
```
Lemma inj_onth s : uniq s ->
  {in [pred n | n < size s] &, injective (onth s)}.
Proof.
elim: s => [//|x s IHs]/= /andP[] /onthPn xs /IHs {}IHs.
move=> [|m] [|n]//=; rewrite !inE !ltnS.
- by move: (xs n) => /negP + _ _ /esym/eqP.
- by move: (xs m) => /negP + _ _ /eqP.
by move: IHs => /[apply]/[apply]/[apply]->.
Qed.
```

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: But this is weaker.

Comment (Tragicus) [reply mathcomp/ssreflect/seq.v]: Oh true. The naming comment still stands, though.

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: I did rename it?

Comment (Tragicus) [reply mathcomp/ssreflect/seq.v]: Well, between `onth_uniq` and `uniq_onth`, I thought `onth_uniq` made more sense because this is a lemma about `onth` under the `uniq` assumption. But this is as you say an injectivity lemma, so it should start with `inj`, hence `inj_onth`.

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: AS per https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md#naming-conventions-for-lemmas-non-exhaustive, unary predicates are suffix in the name conventions. (There are few exceptions to this rule, for historical reasons)

File: mathcomp/ssreflect/seq.v (hunk 5 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: Well spotted!
